US07056917B2
(C) 2-{8-[2-(4-Isopropyl-1,3-thiazol-2-yl)ethyl]-2-morpholino-4-oxo-4H-pyrido[1,2-a]-pyrimidin-3-yl}-1-cyclopropanecarboxylic acid
3-[2-(Hydroxymethyl)cyclopropyl]-8-[2-(4-isopropyl-1,3-thiazol-2-yl)ethyl]-2-morpholino-4H-pyrido[1,2-a]pyrimidin-4-one (55 mg, 0.121 mmol) dissolved in acetone (10 ml) was added dropwise with Jones' reagent (130 μl, 0.363 mmol) under ice cooling with and stirred for 2 hours. Then, the reaction solution was further added with Jones' reagent (165 μl) and stirred for 2 hours. Then, the reaction was stopped with saturated sodium thiosulfate, and the reaction solution was extracted with chloroform. The organic layer was dried over magnesium sulfate and concentrated under reduced pressure. The resulting residue was purified by thin layer silica gel chromatography (chloroform:methanol=10:1) to obtain 2.2 mg (4%) of the title compound as yellow crystals.

reactant | 3-[2-(Hydroxymethyl)cyclopropyl]-8-[2-(4-isopropyl-1,3-thiazol-2-yl)ethyl]-2-morpholino-4H-pyrido[1,2-a]pyrimidin-4-one | 0.121 mmol, 55 mg | OCC1C(C1)C1=C(N=C2N(C1=O)C=CC(=C2)CCC=2SC=C(N2)C(C)C)N2CCOCC2 | C24H30N4O3S
reactant | Jones' reagent | 0.363 mmol, 130 μl | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
reactant | Jones' reagent | 165 μl | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | acetone | 10 ml | CC(=O)C | C3H6O
product | 2-{8-[2-(4-Isopropyl-1,3-thiazol-2-yl)ethyl]-2-morpholino-4-oxo-4H-pyrido[1,2-a]-pyrimidin-3-yl}-1-cyclopropanecarboxylic acid | 2.2 mg, 4% | C(C)(C)C=1N=C(SC1)CCC1=CC=2N(C(C(=C(N2)N2CCOCC2)C2C(C2)C(=O)O)=O)C=C1 | C24H28N4O4S
